US06951944B2
Preparation of diethyl 1-(1-triphenylmethylimidazol-4-yl)-ethylphosphonate
To a solution of diethyl(1-triphenylmethylimidazol-4-yl)methylphosphonate (690 mg, 1.5 mmol) in THF (20 ml) was added 1.6M hexane solution of n-butyllithium (0.94 ml, 1.5 mmol) dropwise over 10 minutes at −72° C. under argon flow, followed by adding a solution of methyl iodide (213 mg, 1.5 mmol) in THF (5 ml) dropwise over 10 minutes. After stirring at the same temperature for 30 minutes, the reaction mixture was heated to room temperature, and then stirred at room temperature for 2 hours. The reaction was quenched with water (1 ml), and then the THF was removed under reduced pressure. Saturated brine (40 ml) was added to the residue, and the mixture was extracted 3 times with ethyl acetate (40 ml). The resultant organic layers were dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the crude product as a light yellow solid. It was purified through chromatography on silica gel column using methanol-ethyl acetate (1:9) to provide the titled compound (690 mg, 97%) as a white powder (m.p. 124-126° C.). This powder was recrystallized from a mixture of ethyl acetate and hexane to provide the title compound as a small needle crystal (m.p. 125-128° C.).

reactant | diethyl(1-triphenylmethylimidazol-4-yl)methylphosphonate | 1.5 mmol, 690 mg | C(C)OP(OCC)(=O)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29N2O3P
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | n-butyllithium | 1.5 mmol, 0.94 ml | C(CCC)[Li]
reactant | methyl iodide | 1.5 mmol, 213 mg | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | diethyl 1-(1-triphenylmethylimidazol-4-yl)-ethylphosphonate | 690 mg, 97% | C1(=CC=CC=C1)C(N1C=NC(=C1)C(C)P(OCC)(OCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H31N2O3P
